### ISSUE TITLE
simp ignores directly of equation lemmas

### ISSUE THREAD

**Issue by eric-wieser** [leanprover-community/lean#623]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover-community/lean/issues).
        * Specifically, check out the [wishlist](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3AI-wishlist), open [RFCs](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3ARFC),
        or [feature requests](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3AFeature).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

When working with equation lemmas, `simp only [←my_add]` behaves as if it were `simp only [my_add]`: the `←` is ignored.

### Steps to Reproduce

```lean
def my_add (a b : nat) := a + b

example (a b : nat) : my_add a b - (a + b) = 0 :=
begin
  success_if_fail { simp only },  -- ok
  exact nat.sub_self _,
end

example (a b : nat) : my_add a b - (a + b) = 0 :=
begin
  simp only [my_add],
  guard_target a + b - (a + b) = 0, -- ok
  exact nat.sub_self _,
end

example (a b : nat) : my_add a b - (a + b) = 0 :=
begin
  simp only [←my_add],
  guard_target my_add a b - my_add a b, -- fail, goal is as if the `←` isn't there
  exac nat.sub_self _,
end
```

**Expected behavior:** [What you expect to happen]

The above code should produce no diagostics

**Actual behavior:** [What actually happens]

The final `guard_target` fails, as the goal is `a + b - (a + b) = 0`. Despite being told not to, `simp` unfolded `my_add`.
